US04929622
10-Chloro-6,12-dimethyl-3-ethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine
10-Chloro-3-cyano-6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine (6.41 g) was dissolved in 300 ml of tetrahydrofuran, and with stirring, 4.06 g of lithium aluminum hydride was added, under nitrogen. The suspension was heated at reflux for 2 hr and ethyl acetate was added dropwise. To the mixture was added water, 15% aqueous sodium hydroxide solution, and water. The suspension was filtered, and the filtrate was concentrated. The residue was triturated with ether. The mother liquor was concentrated and 2-g portions of the residue were alkylated with phenethyl bromide and 4-bromo-2-methylbut-2-ene according to the procedures described in Examples 23 and 26 to give 0.35 g (20%) and 0.41 g (24%), respectively, of product. Column chromatography (alumina, ether) followed by recrystallization from dichloromethane-ether-pentane afforded the analytical sample, mp 208°-210° C. (dec.).

reactant | 10-Chloro-3-cyano-6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine | 6.41 g | ClC=1CN=CC2(C3=C(C1)C1=C(CC3)N(C(C1)C2C)C#N)C | C17H18ClN3
reactant | lithium aluminum hydride | 4.06 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 10-Chloro-6,12-dimethyl-3-ethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine | ClC=1CN=CC2(C3=C(C1)C1=C(CC3)N(C(C1)C2C)CC)C | C18H23ClN2
